US05602253
(iv) 4-Aminoethyl-1-benzyloxycarbonylamidino piperidine (H-Rig(Z))
To 30 ml of water was added 0.40 g of 10% Pd/C. Sodium borohydride, 1.0 g (0.031 mol), was dissolved in 30 ml of water and was added carefully to the stirred and ice-cooled slurry of Pd/C and water. 4-Azidoethyl-1-benzyloxycarbonylamidino piperidine, 2.9 g (8.8 mmol), was dissolved in 80 ml of tetrahydrofurane and this solution was added dropwise to the ice-cooled aqueous slurry above. After 4 h of stirring at room temperature the mixture was ice-cooled again and 30 ml of 2M HCl was added. The mixture was filtered through celite and the celite was rinsed with additional water. The tetrahydrofuran was evaporated and the aqueous phase was washed with ethyl acetate. The aqueous phase was made alkaline with 2M NaOH and extracted with methylene chloride three times. The combined organic phase was washed with water, dried (Na2SO4) and evaporated. The product was used in the following step without further purification.

reactant | Sodium borohydride | [BH4-].[Na+]
reactant | 4-Azidoethyl-1-benzyloxycarbonylamidino piperidine | N(=[N+]=[N-])CCC1CCN(CC1)C(NC(=O)OCC1=CC=CC=C1)=N | C16H22N6O2
reactant | HCl | 2M, 30 ml | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | tetrahydrofurane | 80 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 0.40 g | [Pd] | Pd
solvent | water | 30 ml | O | H2O
product | 4-Aminoethyl-1-benzyloxycarbonylamidino piperidine | NCCC1CCN(CC1)C(NC(=O)OCC1=CC=CC=C1)=N | C16H24N4O2
